US05554624
3-(4-Methylphenyl)-3-phenyl-2-propenonitrile
To a solution of 6.5 g (0.114 mol) of KOH in 70 mL of acetonitrile was added dropwise under argon a solution of 4-methylbenzophenone (22.5 g, 0.114 mol) in acetonitrile (45 mL). After the addition was complete, the reaction mixture was heated at reflux overnight. It was then allowed to cool, poured into ice and extracted with dichloromethane. The organic phase was dried and the solvent was removed to afford 30 g of a crude product that was chromatographed on silica gel (hexane-ethyl acetate mixtures of increasing polarity) to give 19.5 g of the desired product (yield: 78%).

reactant | KOH | 0.114 mol, 6.5 g | [OH-].[K+]
reactant | 4-methylbenzophenone | 0.114 mol, 22.5 g | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
reactant | acetonitrile | 70 mL | C(C)#N | C2H3N
reactant | acetonitrile | 45 mL | C(C)#N | C2H3N
product | 3-(4-Methylphenyl)-3-phenyl-2-propenonitrile | 19.5 g, yield: 78% | CC1=CC=C(C=C1)C(=CC#N)C1=CC=CC=C1 | C16H13N
